US07405299B2
Preparation of 3-(3,4-Dihydro-2H-benzo[b] [1,4]dioxepin-7-yl)-2-(pyridin-2-yl)-5,6-dihydro-4H-pyrrolo [1,2-b]pyrazole
Add bis(1,2-bis(diphenylphosphino)ethane)palladium(0) (Pd(DIPHOS)2; 0.086 g, 0.095 mmol) and tris(dibenzylidene-acetone)dipalladium(0) (Pd2(dba)3); 0.088 g, 0.095 mmol) to a degassed solution of 3-bromo-2-(pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole (Preparation 4, 0.25 g, 0.95 mmol) in THF (2.5 mL). Purge the reaction mixture with nitrogen for 2 min and stir for 20 min at room temperature. Add 3,4-dihydro-2H-benzo[b][1,4]dioxepin-7-ylboronic acid (158 mg, 0.95 mmol) in DMF (1 mL). After stirring the reaction mixture for 10 min, add 2M aqueous potassium carbonate solution (1.2 mL). Heat the solution at 65° C. for 1 h. Add Pd2(dba)3 (0.088 g, 0.095 mmol) twice after 1 h and again after 2 h. Continue stirring the reaction mixture for 15 h at 65° C. Cool the mixture to room temperature, filter through a Celite® pad, and wash the celite pad with dichloromethane (50 mL) and methanol (50 mL). Evaporate the filtrate. Purification of the residue by flash chromatography (SiO2, 1:3 [88:8:2 chloroform/methanol/concentrated aqueous ammonium hydroxide]/dichloromethane) gives the title compound (69 mg, 22%) as a brown oil.

reactant | 3-bromo-2-(pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole | 0.95 mmol, 0.25 g | BrC1=C2N(N=C1C1=NC=CC=C1)CCC2 | C11H10BrN3
reactant | 3,4-dihydro-2H-benzo[b][1,4]dioxepin-7-ylboronic acid | 0.95 mmol, 158 mg | O1C2=C(OCCC1)C=C(C=C2)B(O)O | C9H11BO4
reactant | potassium carbonate | 2M, 1.2 mL | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | tris(dibenzylidene-acetone)dipalladium(0) | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | Pd2(dba)3 | 0.095 mmol, 0.088 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-(3,4-Dihydro-2H-benzo[b] [1,4]dioxepin-7-yl)-2-(pyridin-2-yl)-5,6-dihydro-4H-pyrrolo [1,2-b]pyrazole | 69 mg, 22% | O1C2=C(OCCC1)C=C(C=C2)C2=C1N(N=C2C2=NC=CC=C2)CCC1 | C20H19N3O2
